data/mechanism_extracts/NatCatal/10.1038_s41929-023-01050-y.json
{"doi": "10.1038_s41929-023-01050-y", "journal": "NatCatal", "is_review": false, "rxn_class_summary": "Photoelectrochemical asymmetric dehydrogenative [2+2] cycloaddition between alkyl 2-acyl imidazole ketones and alkenes, forging chiral cyclobutanes by activating two C(sp3)-H bonds and a C=C double bond under chiral-at-Rh Lewis acid / ferrocene-mediated electrolysis.", "mechanism_family": ["mediator_anodic", "photoredox_combined", "biradical", "electrocatalysis_inner_sphere"], "electrochemical_role": "Ferrocene (Fc) acts as an anodic redox mediator: Fc is oxidized to Fc+ at the RVC anode, which then performs single-electron oxidation of the Rh-bound enolate intermediate II to a carbon radical cation III; the cathode reduces alcohol to H2 and alkoxide, completing the dehydrogenative cycle.", "key_intermediates": [{"name": "Rh(III)-ketone bidentate complex I", "smiles": null, "role": "resting_state"}, {"name": "Rh-bound enolate II (after DABCO deprotonation)", "smiles": null, "role": "reactive"}, {"name": "Rh-bound alpha-carbonyl radical cation III (SET oxidation by Fc+)", "smiles": null, "role": "transient"}, {"name": "Rh-bound allylic/alpha-carbonyl radical IV (after proton loss)", "smiles": null, "role": "transient"}, {"name": "Rh-dienolate radical cation V (tautomer of VI after second SET)", "smiles": null, "role": "transient"}, {"name": "Rh-coordinated alpha,beta-unsaturated ketone (enone) intermediate VI", "smiles": null, "role": "reactive"}, {"name": "Excited triplet-state Rh-enone VII (T1, 1,3-biradical character)", "smiles": null, "role": "reactive"}, {"name": "Triplet 1,4-diradical VIII (after C-C bond formation with alkene)", "smiles": null, "role": "transient"}, {"name": "Rh-coordinated cyclobutane IX (after ISC and ring closure)", "smiles": null, "role": "transient"}, {"name": "Ferrocenium (Fc+) redox mediator", "smiles": "[Fe+2].[cH-]1cccc1.[cH-]1cccc1", "role": "reactive"}], "electron_flow": "At the anode, Fc is oxidized to Fc+, which performs SET on the Rh-enolate II to give radical cation III; deprotonation yields allylic radical IV, which is further oxidized (by Fc+) to V/VI, the Rh-bound enone. Visible light excites VI to triplet biradical VII, which adds to the alkene to give 1,4-diradical VIII, followed by ISC and C-C bond closure to cyclobutane IX; protons released are reduced at the Pt cathode to H2, achieving overall dehydrogenation.", "rate_determining_step": "Electrochemical dehydrogenative oxidation of the alkyl ketone to the enone intermediate VI (1 -> 52, ~10 h) is markedly slower than the subsequent photochemical [2+2] cycloaddition (52 -> 3, ~3 h).", "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "TEMPO-adduct 53 isolated (8%, 23% e.e.) at the alpha-carbonyl position; cyclobutane formation suppressed, supporting radical intermediates III/IV."}, {"name": "Phenyl vinyl ketone (Michael acceptor)", "smiles": "O=C(c1ccccc1)C=C", "purpose": "intermediate_trap", "observation": "Gave Michael adduct 55 (28%, 96% e.e.) plus mono-addition 54, confirming the enolate intermediate II."}, {"name": "Reaction without diene 2", "smiles": null, "purpose": "intermediate_trap", "observation": "Enone 52 isolated in 72% yield, confirming the dehydrogenative pathway generates VI before cycloaddition."}, {"name": "Stoichiometric Fc+PF6- (no current)", "smiles": null, "purpose": "redox_probe", "observation": "With 10 equiv Fc+PF6-, product 3 obtained in 25% (97% e.e.) plus enone 52 (35%), demonstrating Fc+ is the kinetically competent oxidant."}, {"name": "Light/current on-off (sequential)", "smiles": null, "purpose": "other", "observation": "Electrolysis without light gives only enone 52; subsequent irradiation without current converts 52 + diene to 3 (77%, 14:1 d.r., 96% e.e.), decoupling the EC dehydrogenation from the photo-[2+2] step."}, {"name": "Cyclic voltammetry of Fc / Fc + RhS-enolate", "smiles": null, "purpose": "redox_probe", "observation": "Catalytic current observed (oxidation peak enhanced, reduction peak vanishes) only when 1 + Rh + DABCO are present, confirming Fc+ oxidizes enolate II (Ep/2 ~0.50 V vs ~0.44 V for Fc+/Fc)."}], "evidence_types_used": ["intermediate_trap_TEMPO", "intermediate_trap_other", "stoichiometric_intermediate", "cyclic_voltammetry", "on/off_light_or_current", "isolation_of_intermediate"], "evidence_strength": "strong", "notes": "Authors explicitly exclude an alternative pathway in which an electro-oxidized electron-rich olefin radical cation couples with another olefin: no cyclobutane forms in absence of diene, and the isolated enone 52 cleanly converts to product upon photolysis, supporting the 'dehydrogenation-then-photo-[2+2]' sequence over a radical-cation [2+2]. The chiral-at-Rh complex serves a dual role as Lewis acid and triplet photosensitizer, enabling enantiocontrol via the triplet biradical VII/VIII."}
